US09399630B2
The present inventors have further surprisingly and unexpectedly found that 3-(4-hydroxybutyl)-1H-indole-5-carbonitrile intermediate can be prepared, in high purity and with high yield, by reacting 5-cyanoindole with 4-chlorobutyryl chloride in the presence of aluminium chloride to produce an intermediate compound, followed by reacting the compound with an aqueous alcohol to produce 3-(4-hydroxybutyryl)-1H-indole-5-carbonitrile, which is then reduced with sodium cyanoborohydride in the presence of hydrochloric acid and water in acetonitrile solvent to produce 3-(4-hydroxybutyl)-1H-indole-5-carbonitrile.

reactant | 3-(4-hydroxybutyl)-1H-indole-5-carbonitrile | OCCCCC1=CNC2=CC=C(C=C12)C#N | C13H14N2O
reactant | 5-cyanoindole | C(#N)C=1C=C2C=CNC2=CC1 | C9H6N2
reactant | 4-chlorobutyryl chloride | ClCCCC(=O)Cl | C4H6Cl2O
reactant | aluminium chloride | [Cl-].[Al+3].[Cl-].[Cl-]
product | 3-(4-hydroxybutyryl)-1H-indole-5-carbonitrile | OCCCC(=O)C1=CNC2=CC=C(C=C12)C#N | C13H12N2O2
